US04873024
The starting material for the process of this invention, compound 2, can be prepared as described in Nicolaou, K. C. et al., "A General and Stereocontrolled Total Synthesis of Leukotriene B4 and Analogues," J. Am. Chem. Soc., 106, 3548 (1984) or Hanson, R. M. and Sharpless, K. B., J. Org. Chem., 51 1922 (1986). Briefly, optically active (S)-glycidol THP ether is prepared from ascorbic acid as disclosed in Takano, S., Numata, H., Ogasawara, K., Heterocycles, 19, 237 (1982) and Baldwin, J. J., Raab, A. W., Mensler, K., Arison, B. H., McClure, D. E., J. Org. Chem., 43, 4876 (1978). The ether is reacted (-78°-25° C.) with two equivalents of the anion of 1-heptyne (1.0 equiv. of n-BuLi, 1.0 equiv. of TMEDA and THF, -78° C.) to afford a-[(tetrahydro-2H-pyran-2-yl)oxy]dec-4-yn-2(R)-ol which is then silylated (t-BuPh2SiCl, imidazole, DMF) to, compound 2.

reactant | Leukotriene B4 | CCCCC/C=C\C[C@H](/C=C/C=C/C=C\[C@H](CCCC(=O)O)O)O | C20H32O4
reactant | (S)-glycidol | C1[C@@H](O1)CO | C3H6O2
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | 1-heptyne | 1.0 equiv. | C#CCCCCC | C7H12
solvent | ether | CCOCC | C4H10O
product | a-[(tetrahydro-2H-pyran-2-yl)oxy]dec-4-yn-2(R)-ol | O1C(CCCC1)OC[C@@H](CC#CCCCCC)O | C15H26O3
